US07728029B2
To a solution of 1-(2-tert-butoxyethyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester (620 mg, 2.0 mmol) in methanol (2 mL) and water (2 mL) was added lithium hydroxide (67 mg, 2.8 mmol). The reaction mixture was stirred at reflux for 4 h, and then the solution was concentrated under reduced pressure to remove the methanol. The residue was then acidified carefully with 6.0 N aqueous HCl. The resulting mixture was extracted with methylene chloride (2×30 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated in vacuo to provide 1-(2-tert-butoxyethyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid as a red oil (425 mg, 75%), which was used without further purification.

reactant | 1-(2-tert-butoxyethyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 2.0 mmol, 620 mg | C(C)OC(=O)C=1C=NN(C1C(F)(F)F)CCOC(C)(C)C | C13H19F3N2O3
reactant | lithium hydroxide | 2.8 mmol, 67 mg | [OH-].[Li+]
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 1-(2-tert-butoxyethyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid | 425 mg, 75% | C(C)(C)(C)OCCN1N=CC(=C1C(F)(F)F)C(=O)O | C11H15F3N2O3
